data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-CC_2-C#N_3-c2ccccc2_4-C_5-CC_6-C_7-C(C)(C)C","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(c2ccccc2)C(=O)C)(CC)C#N","C(CC)(C)C(=O)C(C)(C)C"],"products_smiles": ["C1(=C(C)C(=O)C(C(CC)(C#N)C1(CC)C)c2ccccc2)C(C)(C)C"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(CC)C)([O-])C(C)(C)C","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(CC)(C#N)C(=C([O-])CC)c2ccccc2)(CC)C)C(C)(C)C","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(CC)(C#N)C(c2ccccc2)C(=O)CC)(CC)C)C(C)(C)C","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(CC)(C#N)C(c2ccccc2)C([O-])=CC)(CC)C)C(C)(C)C","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)C(=O)C(C(CC)(C#N)C1(CC)C)c2ccccc2)(C(C)(C)C)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)=C([O-])C(C(CC)(C#N)C1(CC)C)c2ccccc2)(C(C)(C)C)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(C)C(=O)C(C(CC)(C#N)C1(CC)C)c2ccccc2)C(C)(C)C","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-208_1-C(F)(F)F_2-c1cccs1_3-c1ccc(F)cc1_4-C(C)C","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C(F)(F)F)=C(c1cccs1)C(c1ccc(F)cc1)(C(C)C)OC=N"],"products_smiles": ["C(=O)NC(C(F)(F)F)C(c1cccs1)=C(c1ccc(F)cc1)(C(C)C)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C(F)(F)F)C(c1cccs1)=C(c1ccc(F)cc1)(C(C)C)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
